US07253165B2
Synthesis of (R)-1-(3,4-dihydro-1H-isoquinolin-2-yl)-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine in dimethylformamide and ethanol and 1,2,3,4-tetrahydroisoquinoline in ethanol essentially as described above in Example 102. Purity by LC/MS=100%, [M+H]+=402.

reactant | (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine | O1[C@H](C1)COC=1C=C(C=CC1)C1=NOC2=NC=CC=C21 | C15H12N2O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | (R)-1-(3,4-dihydro-1H-isoquinolin-2-yl)-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propan-2-ol | C1N(CCC2=CC=CC=C12)C[C@H](COC1=CC(=CC=C1)C1=NOC2=NC=CC=C21)O | C24H23N3O3
